US05068325
3a) 2-Amino-6-(3-(4-chloro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2-acetylamino-6-(3-(4-chloro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine with semi-concentrated hydrochloric acid. Yield: 71% of theory, Melting point: 145°-150° C.

reactant | 2-acetylamino-6-(3-(4-chloro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | C(C)(=O)NC=1SC=2CCN(CCC2N1)CC=CC1=CC=C(C=C1)Cl | C18H20ClN3OS
reactant | hydrochloric acid | Cl | ClH
product | 2-Amino-6-(3-(4-chloro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 71% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC=C(C=C1)Cl | C16H18ClN3S
